US05985853
1.83 ml of boron tribromide is added dropwise at 0° C. under a nitrogen atmosphere to a solution containing 6 g of 4-iodo 2-methoxy biphenyl. Agitation is carried out for one hour at 0° C. then for 5 hours at 20° C. and the reaction medium is poured into a water and ice mixture. The suspension obtained is agitated for 15 minutes and extraction is carried out with methylene chloride. The organic phases are collected, dried and evaporated under reduced pressure. In this way 5.65 g of 4-iodo 2-hydroxy biphenyl is obtained.

reactant | boron tribromide | 1.83 ml | B(Br)(Br)Br | BBr3
reactant | 4-iodo 2-methoxy biphenyl | 6 g | IC1=CC(=C(C=C1)C1=CC=CC=C1)OC | C13H11IO
solvent | water | O | H2O
product | 4-iodo 2-hydroxy biphenyl | 5.65 g | IC1=CC(=C(C=C1)C1=CC=CC=C1)O | C12H9IO
